US09162992B2
2-(t-Butyl-dimethylsilyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CXXII) (700 mg, 2.5 mmol), 0.18 mL (3.5 mmol) of methyl iodide in DMF (10 mL), and K2CO3 (552 mg, 4 mmol) were reacted at ambient temperature for 15 h. After addition of H2O (10 mL), the reaction was extracted with EtOAc (100 mL), and the organic layer was washed with a brine solution (10 mL), and dried over Na2SO4. The solvents were removed in vacuo, and the residue was purified by flash column chromatography (PE/EtOAc=10/1 to 5/1) to afford 2-(t-butyl-dimethylsilyl)amino-4-chloro-7-methyl-pyrrolo[2,3-d]pyrimidine (CXXIII) (750 mg, 100%) as a light yellow oil. LCMS (ESI) m/z=297 (M+H)+.

reactant | 2-(t-Butyl-dimethylsilyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 2.5 mmol, 700 mg | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)NC=C2)Cl | C12H19ClN4Si
reactant | methyl iodide | 3.5 mmol, 0.18 mL | CI | CH3I
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(t-butyl-dimethylsilyl)amino-4-chloro-7-methyl-pyrrolo[2,3-d]pyrimidine | 750 mg, 100% | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)N(C=C2)C)Cl | C13H21ClN4Si
